US05773460
2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid methyl ester hydrochloride;
2-(4, 5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid ethyl ester hydrochloride; 2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid octyl ester hydrochloride; 2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid n-butyl ester hydrochloride; 2-(6-ethyl amino-3-ethyl imino-3H-xanthen-9-yl)-benzoic acid n-butyl ester hydrochloride; and photoactivable derivatives thereof. These derivatives are utilized in an amount to achieve appropriate intracellular levels of the derivative when irradiation of a suitable wavelength and intensity is applied to photoactivate the derivative and thereby induce cell killing.

reactant | 2-(4, 5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid ethyl ester hydrochloride | Cl.C(C)OC(C1=C(C=CC=C1)C=1C2=CC=C(C(=C2OC2=C(C(C=CC12)=N)Br)Br)N)=O
reactant | 2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid octyl ester hydrochloride | Cl.C(CCCCCCC)OC(C1=C(C=CC=C1)C=1C2=CC=C(C(=C2OC2=C(C(C=CC12)=N)Br)Br)N)=O
reactant | 2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid n-butyl ester hydrochloride | Cl.C(CCC)OC(C1=C(C=CC=C1)C=1C2=CC=C(C(=C2OC2=C(C(C=CC12)=N)Br)Br)N)=O
reactant | 2-(6-ethyl amino-3-ethyl imino-3H-xanthen-9-yl)-benzoic acid n-butyl ester hydrochloride | Cl.C(CCC)OC(C1=C(C=CC=C1)C=1C2=CC=C(C=C2OC2=CC(C(C(C12)=N)N)CC)CC)=O
product | 2-(4,5-dibromo-6-amino-3-imino-3H-xanthen-9-yl)-benzoic acid methyl ester hydrochloride | Cl.COC(C1=C(C=CC=C1)C=1C2=CC=C(C(=C2OC2=C(C(C=CC12)=N)Br)Br)N)=O | InChI=1S/C21H14Br2N2O3.ClH/c1-27-21(26)11-5-3-2-4-10(11)16-12-6-8-14(24)17(22)19(12)28-20-13(16)7-9-15(25)18(20)23;/h2-9,24H,25H2,1H3;1H
